US05707991
A The reaction is carried out in a way analogous to that described in Example 3, but from 1.1 g of methyl (2RS,4RS,5SR)-5-(2-fluorophenyl)-1-{2-[3-(3-(methoxycarbonylmethyl)phenyl)ureido]acetyl}-2-(methylphenylcarbamoyl)pyrrolidine-4-carboxylate and 0.21 g of potassium hydroxide in a mixture of 20 cm3 of distilled water and 40 cm3 of methanol. After treatment, there is obtained 0.5 g of (2RS,4SR,5SR)-5-(2-fluorophenyl)-1-{2-[3-(3-(carboxymethyl)phenyl)ureido]acetyl}-2-(methylphenylcarbamoyl)pyrrolidine-4-carboxylic acid, melting at 164° C.

reactant | methyl (2RS,4RS,5SR)-5-(2-fluorophenyl)-1-{2-[3-(3-(methoxycarbonylmethyl)phenyl)ureido]acetyl}-2-(methylphenylcarbamoyl)pyrrolidine-4-carboxylate | 1.1 g | FC1=C(C=CC=C1)C1C(CC(N1C(CNC(=O)NC1=CC(=CC=C1)CC(=O)OC)=O)C(N(C1=CC=CC=C1)C)=O)C(=O)OC | C32H33FN4O7
reactant | potassium hydroxide | 0.21 g | [OH-].[K+]
solvent | water | 20 cm3 | O | H2O
solvent | methanol | 40 cm3 | CO | CH4O
product | (2RS,4SR,5SR)-5-(2-fluorophenyl)-1-{2-[3-(3-(carboxymethyl)phenyl)ureido]acetyl}-2-(methylphenylcarbamoyl)pyrrolidine-4-carboxylic acid | 0.5 g | FC1=C(C=CC=C1)C1C(CC(N1C(CNC(=O)NC1=CC(=CC=C1)CC(=O)O)=O)C(N(C1=CC=CC=C1)C)=O)C(=O)O | C30H29FN4O7
